US08048909B2
1-{1-[(1,1-Dioxido-2,3-dihydro-1-benzothien-6-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine
Using 1-[(1,1-dioxido-2,3-dihydro-1-benzothiophen-6-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (114 mg), 40% methylamine methanol solution (0.3 mL) and sodium borohydride (10.8 mg), a procedure as in Example 126 was performed to give the title compound as a white solid (yield 76.3 mg, 65%).

reactant | 1-[(1,1-dioxido-2,3-dihydro-1-benzothiophen-6-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 114 mg | O=S1(CCC2=C1C=C(C=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)C=O)=O | C19H15NO5S2
reactant | methylamine methanol | 0.3 mL | CO.CN
reactant | sodium borohydride | 10.8 mg | [BH4-].[Na+]
product | 1-{1-[(1,1-Dioxido-2,3-dihydro-1-benzothien-6-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine | yield 76.3 mg, 65% | O=S1(CCC2=C1C=C(C=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)CNC)=O | C20H20N2O4S2
